US03978071
6.2 g of 2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]propionyl chloride, which is produced by treating 2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]-propionic acid hydrochloride with thionyl chloride in chloroform, is added to a solution of 2.6 g of N,N-dimethylethylenediamine in 50 ml of pyridine. The mixture is allowed to stand at room temperature for 3 hours, and concentrated under reduced pressure. The residue is neutralized with aqueous sodium bicarbonate solution. The crystalline precipitate is washed with water and recrystallized from toluene to give 2.3 g of N-(2-dimethylamino-ethyl)-2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]propionamide melting at 149°-150°C.

reactant | 2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]-propionic acid hydrochloride | Cl.N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)C(C(=O)O)C
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylethylenediamine | 2.6 g | CN(CCN)C | C4H12N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-dimethylamino-ethyl)-2-[4-(imidazo[1,2-a]pyridin-2-yl)phenyl]propionamide | 2.3 g | CN(CCNC(C(C)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1)=O)C | C20H24N4O
